US04859684
(a-4) A mixture of 1.45 parts of 4-[(1H-imidazol-1-yl)phenylmethyl]-2-nitrobenzenamine, 0.78 parts of acetyl chloride and 25 parts of acetic acid was stirred over weekend at room temperature. The methanol layer was removed in vacuo and the residue was taken up in water and dichloromethane. After treatment with ammonium hydroxide, the dichloromethane layer was dried, filtered and evaporated, yielding 1.6 parts (95%) of N-[4-[(1H-imidazol-1-yl)phenylmethyl]-2-nitrophenyl]-acetamide as a residue (int. 127).

reactant | 4-[(1H-imidazol-1-yl)phenylmethyl]-2-nitrobenzenamine | N1(C=NC=C1)C(C1=CC(=C(C=C1)N)[N+](=O)[O-])C1=CC=CC=C1 | C16H14N4O2
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | N-[4-[(1H-imidazol-1-yl)phenylmethyl]-2-nitrophenyl]-acetamide | 95% | N1(C=NC=C1)C(C1=CC(=C(C=C1)NC(C)=O)[N+](=O)[O-])C1=CC=CC=C1 | C18H16N4O3
